US06034067
S-Methylisothiourea semisulfate (10 g) was suspended in dichloromethane (100 ml). To the suspension, a 4N sodium hydroxide solution (10 ml) was added under stirring. The reaction mixture was placed in an ice bath; di-tert-butyl dicarbonate (15.7 g) in dichloromethane (100 ml) was added dropwise along with a 2N sodium hydroxide solution to keep the pH around 11. After the addition was completed, the reaction mixture was stirred overnight at room temperature. The dichloromethane layer was separated, and the aqueous layer was extracted with dichloromethane. The combined organic layers were washed with water and dried over sodium sulfate, filtered and evaporated in vacuo. The residue was purified by chromatography on silica (eluent: heptane/ethyl acetate=4/1 v/v %) to yield N-(tert-butyloxycarbonyl)-S-methylisothiourea (9.38 g).

reactant | S-Methylisothiourea | CSC(N)=N | C2H6N2S
reactant | sodium hydroxide | 4N, 10 ml | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 15.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-(tert-butyloxycarbonyl)-S-methylisothiourea | 9.38 g | C(C)(C)(C)OC(=O)NC(SC)=N | C7H14N2O2S
